US08633173B2
260 c) 2-Amino-[1,2,4]triazolo[1,5-a]pyridin-8-ol (0.200 g, 1.33 mmol) was suspended in acetone (1.9 mL). 1-(bromomethyl)-3-chloro-benzene (0.184 mL, 1.40 mmol) and potassium carbonate (193 mg, 1.40 mmol) were added and the reaction mixture was heated to 80° C. for 1 hour. Reaction mixture was cooled to room temperature, diluted with water, extracted with dichloromethane, dried over magnesium sulfate, filtered, and concentrated. Resulting oil was taken up in dichloromethane and purified via chromatography (silica gel 0-100% ethyl acetate in hexanes). 8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was isolated as an oil which solidified on standing. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.17 (d, J=6.6 Hz, 1H), 7.56 (s, 1H), 7.44-7.42 (m, 3H), 6.99 (d, J=7.9 Hz, 1H), 6.79-6.75 (m, 1H), 5.94 (bs, 2H), 5.30 (s, 2H). MS=275 (MH)+. 260 d) [8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(3-chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (95.0 mg, 0.346 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (102 mg, 0.399 mmol in a manner analogous to Example 2d. Product was isolated as a pale orange solid (0.073 g, 47%). MP=135-138° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.33 (s, 1H), 8.37 (d, J=6.7 Hz, 1H), 7.58 (s, 1H), 7.51-7.44 (m, 5H), 7.09 (d, J=7.9 Hz, 1H), 6.91-6.86 (m, 3H), 5.35 (s, 2H), 3.04-3.01 (m, 4H), 2.46-2.44 (m, 4H), 2.22 (s, 3H). MS=449 (MH)+.

reactant | 8-(3-chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.346 mmol, 95.0 mg | ClC=1C=C(COC=2C=3N(C=CC2)N=C(N3)N)C=CC1 | C13H11ClN4O
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
product | [8-(3-Chloro-benzyloxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | ClC=1C=C(COC=2C=3N(C=CC2)N=C(N3)NC3=CC=C(C=C3)N3CCN(CC3)C)C=CC1 | C24H25ClN6O
